*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ160ARA821MJA0G
*//   Date        : 2020/09/10
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ160ARA821MJA0G_20deg-C 1 2

C1 4 2 3.43e-04
C2 5 2 1.73e-04
C3 6 2 2.02e-04
R1 3 4 9.09e-03
R2 4 5 3.16e-02
R3 5 6 2.92e-01
L1 1 3 4.50e-09

.ENDS
*$
